US07572809B2
Similar procedure as described in example 131 was used, starting from (1-chloro-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine and m-tolylboronic acid to give (1H-pyrazol-3-yl)-(1-m-tolyl-isoquinolin-3-yl)-amine. LC-MS m/e 301(MH+).

reactant | (1-chloro-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC=CC=C12)NC1=NNC=C1 | C12H9ClN4
reactant | m-tolylboronic acid | C1(=CC(=CC=C1)B(O)O)C | C7H9BO2
product | (1H-pyrazol-3-yl)-(1-m-tolyl-isoquinolin-3-yl)-amine | N1N=C(C=C1)NC=1N=C(C2=CC=CC=C2C1)C=1C=C(C=CC1)C | C19H16N4
